US06720324B2
TERT-BUTYL 3-(4-(3-NITROPHENYL)-3,6-DIHYDRO-1(2H)-PYRIDINYL)PROPYLCARBAMATE:
A mixture of 2.80 g (14.0 mmol) of 1,2,3,6-tetrahydro-4-(3-nitrophenyl)pyridine, 3.60 g (15.0 mmol) of tert-butyl N-(3-bromopropyl)carbamate, 11.6 g (84.0 mmol) of K2CO3, 14.6 mL (84.0 mmol) of diisopropylethylamine and 0.78 g (2.00 mmol) of tetrabutylammonium iodide in 250 mL of 1,4-dioxane was heated at reflux temperature for 14 hours. The reaction mixture was filtered and the filtrate was dried (MgSO4), concentrated in vacuo and the residue was purified by column chromatography (silica, 9:1, dichloromethane:methanol+1% isopropyl amine) to afford 4.35 g (85.7% yield) of the desired product: 1H NMR (400 MHz, CDCl3) δ 8.24 (t, 1H, J=1.9 Hz), 8.09 (dd, 1H, J=1.9, 8.0 Hz), 7.70 (apparent d, 1H, J=8.0 Hz), 7.49 (t, 1H, J=8.0 Hz), 6.23 (m, 1H), 3.29-3.18 (m, 4H) 2.75 (t, 2H, J=5.6 Hz), 2.64-2.54 (m, 4H), 1.82-1.70 (m, 2H), 1.44 (s, 9H); ESMS m/e: 362.2 (M+H)+.

reactant | 1,2,3,6-tetrahydro-4-(3-nitrophenyl)pyridine | 14.0 mmol, 2.80 g | [N+](=O)([O-])C=1C=C(C=CC1)C=1CCNCC1 | C11H12N2O2
reactant | tert-butyl N-(3-bromopropyl)carbamate | 15.0 mmol, 3.60 g | BrCCCNC(OC(C)(C)C)=O | C8H16BrNO2
reactant | K2CO3 | 84.0 mmol, 11.6 g | C(=O)([O-])[O-].[K+].[K+]
reactant | diisopropylethylamine | 84.0 mmol, 14.6 mL | C(C)(C)N(CC)C(C)C | C8H19N
catalyst | tetrabutylammonium iodide | 2.00 mmol, 0.78 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | 1,4-dioxane | 250 mL | O1CCOCC1 | C4H8O2
product | TERT-BUTYL 3-(4-(3-NITROPHENYL)-3,6-DIHYDRO-1(2H)-PYRIDINYL)PROPYLCARBAMATE | 4.35 g, 85.7% yield | [N+](=O)([O-])C=1C=C(C=CC1)C=1CCN(CC1)CCCNC(OC(C)(C)C)=O | C19H27N3O4
